US04252803
3-(2-Aminoethyl)-1H-indole-5-carboxylic acid, methyl ester, hydrochloride
Thionyl chloride (25 ml) was added to Analar methanol (84 ml) at 0° C. over a period of 1 hour under nitrogen. 3-(2-Aminoethyl)-1H-indole-5-carboxylic acid hydrochloride (2.5 g) in Analar methanol (35 ml) was added at 0° C. and the mixture was heated at reflux under nitrogen for 2.5 hour, cooled to ca. 45° C. and dry diethyl ether (200 ml) was added. The mixture was cooled and left overnight at 0° C. giving the title compound (1.9 g) as white microcrystals m.p. 265.5°-267° C. T.L.C. Silica, ethyl acetate:2-propanol:water:ammonia (25:15:8:2) Rf 0.46.

reactant | Thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-(2-Aminoethyl)-1H-indole-5-carboxylic acid hydrochloride | 2.5 g | Cl.NCCC1=CNC2=CC=C(C=C12)C(=O)O
reactant | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | methanol | 35 ml | CO | CH4O
solvent | methanol | 84 ml | CO | CH4O
product | 3-(2-Aminoethyl)-1H-indole-5-carboxylic acid, methyl ester, hydrochloride | 1.9 g | Cl.NCCC1=CNC2=CC=C(C=C12)C(=O)OC | InChI=1S/C12H14N2O2.ClH/c1-16-12(15)8-2-3-11-10(6-8)9(4-5-13)7-14-11;/h2-3,6-7,14H,4-5,13H2,1H3;1H
